US06235731B1
While 3.605 g (16.519 mM) of 5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid and 2.09 g (18.2 mM) of N-hydroxysuccinimide were stirred together in 100 ml of acetonitrile, 3.48 g (18.2 mM) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride was added and the mixture was stirred at room temperature for 2 hours. To this reaction mixture was added 3.45 ml (24.8 mM) of triethylamine as well as 2.83 g (24.8 mM) of 2-aminomethylpiperidine and the mixture was stirred at room temperature for one hour. Then, 5.41 g (24.8 mM) of di-tert-butyl dicarbonate was added and the mixture was stirred at room temperature for another hour. This reaction mixture was poured in aqueous solution of sodium hydrogen carbonate and extracted with 3 portions of ethyl acetate. The organic layers were pooled and dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography (ethyl acetate to ethyl acetate-methanol=9/1) to provide crude N-[1-(tert-butoxycarbonyl)piperidin-2-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide. To this crude N-[1-(tert-butoxycarbonyl)piperidin-2-ylmethyl)-5-thia-1,8b-diazaacenaphthylene-4-carboxamide was added 5 ml of concentrated hydrochloric acid and the mixture was stirred at room temperature for 0.5 hour. After addition of ethanol, the mixture was stirred and the resulting precipitate was recovered and rinsed serially with ethanol and diethyl ether to provide the title compound.

reactant | 5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid | 16.519 mM, 3.605 g | N=1C=C2C=C(SC3=CC=CC1N23)C(=O)O | C10H6N2O2S
reactant | N-hydroxysuccinimide | 18.2 mM, 2.09 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 18.2 mM, 3.48 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 2-aminomethylpiperidine | 24.8 mM, 2.83 g | NCC1NCCCC1 | C6H14N2
reactant | di-tert-butyl dicarbonate | 24.8 mM, 5.41 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | triethylamine | 24.8 mM, 3.45 ml | C(C)N(CC)CC | C6H15N
product | N-[1-(tert-butoxycarbonyl)piperidin-2-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | C(C)(C)(C)OC(=O)N1C(CCCC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C21H26N4O3S
